US07544637B2
1.5: 2-Fluoro-6-methoxybenzonitrile (analogous to WO 99/14187)
640.5 g (4.6 mol) of difluorobenzonitrile were dissolved in 3.5 l of methanol and then cooled to 0-5° C. 828.8 g of 30% strength sodium methoxide solution were added dropwise in this temperature range, and the reaction mixture was stirred at room temperature overnight. Then the reaction mixture was added to 20 l of water and the precipitate was filtered off with suction and washed twice with water and twice with heptane. The solid was dried in vacuo at 50° C. Yield: 740 g (99% of theory) of a white solid with a purity of >95% according to GC. 1H NMR (in CDCl3): δ=3.95 ppm (s, 3H, O—CH3), 6.85 ppm (m, 2H, arom. H), 7.5 ppm (q, 1H, arom. H).

reactant | difluorobenzonitrile | 4.6 mol, 640.5 g | FC=1C(=C(C#N)C=CC1)F | C7H3F2N
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | 20 l | O | H2O
solvent | methanol | 3.5 l | CO | CH4O
product | 2-Fluoro-6-methoxybenzonitrile | FC1=C(C#N)C(=CC=C1)OC | C8H6FNO
